US08008293B2
Synthesis of (1S,6S,8aR)-6-(4-fluorophenyl)-1-methyltetrahyropyrrolo[2,1-c][1,4]oxazine-3,4-dione
Under ice-cooling, oxalyl chloride (392 μL) was added dropwise into a dichloromethane (4 mL) solution containing (S)-1-[(2R,5S)-5-(4-fluorophenyl)pyrrolidine-2-yl]ethanol (479 mg) and pyridine (1 mL). Stirring was continued for 1 hour at the same temperature and for 1 hour at room temperature. Water was added, and the organic layer was partitioned, and the resultant was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the residue was purified by silica gel column chromatography (heptane/ethyl acetate→ethyl acetate), and the title compound (130 mg) was obtained. The physical property values are as follows.

reactant | oxalyl chloride | 392 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
reactant | (S)-1-[(2R,5S)-5-(4-fluorophenyl)pyrrolidine-2-yl]ethanol | 479 mg | FC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1)[C@H](C)O | C12H16FNO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | (1S,6S,8aR)-6-(4-fluorophenyl)-1-methyltetrahyropyrrolo[2,1-c][1,4]oxazine-3,4-dione | 130 mg | FC1=CC=C(C=C1)[C@@H]1CC[C@@H]2[C@@H](OC(C(N21)=O)=O)C | C14H14FNO3
